US06399629B1
(B) Ethyl 6-Benzyl-4-Chloroquinoline-3-Carboxylate
A mixture of ethyl 6-benzyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (A, 1.96 g) and phosphorus oxychloride (10 mL) was refluxed for 15 min. The solution was poured into ice water containing concentrated ammonia solution (15 mL), and the resulting mixture was extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to afford crude the title compound (2.77 g) as a brown oil: 1H NMR (400 MHz, CDCl3) δ 1.48 (t, J=6.8 Hz, 3H), 4.31 (s, 2H), 4.55 (q, J=6.8 Hz, 2H), 7.18-7.41 (m, 5H), 7.99 (d, J=8.8 Hz, 1H), 8.39 (s, 1H), 8.61 (d, J=8.8 Hz, 1H), and 9.38 (s, 1H).

reactant | ethyl 6-benzyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | C(C1=CC=CC=C1)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C19H17NO3
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 6-Benzyl-4-Chloroquinoline-3-Carboxylate | 2.77 g | C(C1=CC=CC=C1)C=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)Cl | C19H16ClNO2
